US08633318B2
Polymer-bound triphenylphosphine (1.81 g, 3 mmol/g, 5.44 mmol) was suspended in DCM (10 mL) and stirred for 30 min. DIAD (1.07 mL, 5.44 mmol), 1-Boc-4-hydroxypiperidine (1.09 g, 5.44 mmol) and Intermediate 1 (500 mg, 2.18 mmol) were added. The reaction mixture was stirred at room temperature for 18 h. The reaction mixture was filtered and the filtrate concentrated in vacuo. The residue was purified by reverse phase HPLC (YMC ODS-A 100×20 mm, 5 μm, 25 mL/min, gradient 40% to 100% (over 7 min) then 100% (3 min) MeOH in 10% MeOH/water) to give 4-[3-(4-chlorophenyl)-pyrazolo[4,3-c]pyridin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester (200 mg, 22.2%) as a light yellow gum.

reactant | triphenylphosphine | 5.44 mmol, 1.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 5.44 mmol, 1.07 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 1-Boc-4-hydroxypiperidine | 5.44 mmol, 1.09 g | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-(4-chlorophenyl)-pyrazolo[4,3-c]pyridin-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 200 mg, 22.2% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=C(C=2C=NC=CC21)C2=CC=C(C=C2)Cl | C22H25ClN4O2
